US09102637B2
6-{[4-carbamoyl-5-(thiophene-3-carboxamido)thiazol-2-yl]amino}-1-methylquinolin-1-ium iodide
To a solution of 2-(quinolin-6-ylamino)-5-(thiophene-3-carboxamido)thiazole-4-carboxamide (50 mg, 0.126 mmol) in DMF (1 mL) was added K2CO3 (50 mg, 0.152 mmol) and. MeI (27 mg, 0.190 mmol) at rt. The mixture was stirred overnight at rt. The reaction was quenched by adding cold-water, and the reaction mixture was diluted with EtOAc. The resulting precipitates were collected by filtration and washed successively with EtOAc and water to afford 10 mg (15% yield) of the titled compound.

reactant | 2-(quinolin-6-ylamino)-5-(thiophene-3-carboxamido)thiazole-4-carboxamide | 0.126 mmol, 50 mg | N1=CC=CC2=CC(=CC=C12)NC=1SC(=C(N1)C(=O)N)NC(=O)C1=CSC=C1 | C18H13N5O2S2
reactant | K2CO3 | 0.152 mmol, 50 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 0.190 mmol, 27 mg | CI | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-{[4-carbamoyl-5-(thiophene-3-carboxamido)thiazol-2-yl]amino}-1-methylquinolin-1-ium iodide | 10 mg, 15% yield | [I-].C(N)(=O)C=1N=C(SC1NC(=O)C1=CSC=C1)NC=1C=C2C=CC=[N+](C2=CC1)C | InChI=1S/C19H15N5O2S2.HI/c1-24-7-2-3-11-9-13(4-5-14(11)24)21-19-22-15(16(20)25)18(28-19)23-17(26)12-6-8-27-10-12;/h2-10H,1H3,(H3-,20,21,22,23,25,26);1H
